US04929639
To a solution of (methoxymethyl)triphenylphosphonium chloride (3.17 g) in dimethylsulfoxide (20 ml) was added dimsyl sodium prepared from sodium hydride (370 mg, 60% in oil) with dimethylsulfoxide (25 ml) at room temperature. After being stirred at room temperature for 30 minutes, to the resulting mixture was added 3-[(Z)-6-methoxycarbonyl-2-hexenyl]-4-oxotetrahydropyran (740 mg) in dimethylsulfoxide (2 ml) and the solution was stirred at room temperature for additional 4 hours. The reaction mixture was poured into a mixture of water (100 ml) and ethyl acetate (100 ml) and the organic layer was separated, washed successively with water and brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was chromatographed on a silica gel column (30 g) with a mixture of n-hexane and ethyl acetate (4:1) as an eluent to give 3-[(Z)-6-methoxycarbonyl-2-hexenyl]-4-methoxymethylenetetrahydropyran (279 mg) as a colorless oil.

reactant | (methoxymethyl)triphenylphosphonium chloride | 3.17 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | dimsyl sodium | [Na+].CS(=O)[CH2-]
reactant | sodium hydride | 370 mg | [H-].[Na+]
reactant | 3-[(Z)-6-methoxycarbonyl-2-hexenyl]-4-oxotetrahydropyran | 740 mg | COC(=O)CCC\C=C/CC1COCCC1=O | C13H20O4
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 25 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | 3-[(Z)-6-methoxycarbonyl-2-hexenyl]-4-methoxymethylenetetrahydropyran | 279 mg | COC(=O)CCC\C=C/CC1COCCC1=COC | C15H24O4
